US06458772B1
(a) 1-(N-benzyloxycarbonyl-L-valyloxy)-2-methyl-2-propanol
N-Benzyloxycarbonyl-L-valine (2.02 g, 8.0 mmol), 4-dimethylaminopyridine (100 mg, 0.8 mmol), and), and dicyclohexylcarbodiimide (2.04 g, 9.9 mmol, in 20 mL CH2Cl2) were added to 2-methyl-1,2-propanediol (12.2 mmol) in 30 mL dry CH2Cl2, with cooling in an ice bath. DMF (5 mL) was added. After stirring for 5 h at 10° C., the reaction mixture was filtered, concentrated, and then redissolved in ethyl acetate. The organic solution was washed with saturated NaCl, dried over anhydrous Na2SO4, and concentrated. Flash column chromatography (silica, 2/1 petroleum ether-ethyl acetate) gave 2.3 g of the title compound.

reactant | N-Benzyloxycarbonyl-L-valine | 8.0 mmol, 2.02 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | dicyclohexylcarbodiimide | 9.9 mmol, 20 mL, 2.04 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-methyl-1,2-propanediol | 12.2 mmol | CC(CO)(C)O | C4H10O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.8 mmol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(N-benzyloxycarbonyl-L-valyloxy)-2-methyl-2-propanol | 2.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCC(C)(O)C | C17H25NO5
